US05525602
To a solution of 0.3 g (0.74 mmol) of methyl (E)-6-[1,3-dihydro-4-(3,3-dimethylureido)-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl]-4-methyl-4-hexenoate in 7.4 ml of 4:1 methanol:water is added 0.13 g (2.96 mmol) of lithium hydroxide monohydrate. The solution is heated at 50°-60° C. for 4 hours. Upon cooling, the reaction is partitioned between aqueous sodium hydrogen sulfate and ethyl acetate. The organic layer is washed with brine, dried over magnesium sulfate, and concentrated to give (E)-6-[1,3-dihydro-4-(3,3-dimethylureido)-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl]-4-methyl-4-hexenoic acid.

reactant | methyl (E)-6-[1,3-dihydro-4-(3,3-dimethylureido)-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl]-4-methyl-4-hexenoate | 0.74 mmol, 0.3 g | CN(C(NC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)CC)C)=O)=O)C | C22H30N2O5
reactant | water | O | H2O
reactant | lithium hydroxide monohydrate | 2.96 mmol, 0.13 g | O.[OH-].[Li+]
solvent | methanol | 7.4 ml | CO | CH4O
product | (E)-6-[1,3-dihydro-4-(3,3-dimethylureido)-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl]-4-methyl-4-hexenoic acid | CN(C(NC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)O)\C)CC)C)=O)=O)C | C21H28N2O5
